data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "MeOH"}, {"role": "reagent", "text": "cat. TsOH"}], "steps": [{"reactants": "COC(=O)C(O)(CC=O)C(C)=O.[H+]", "products": "COC(=O)C(O)(CC=[OH+])C(C)=O"}, {"reactants": "COC(=O)C(O)(CC=[OH+])C(C)=O", "products": "CC1=[O+]C(O)CC(O)(C(=O)OC)1"}, {"reactants": "CC1=[O+]C(O)CC(O)(C(=O)OC)1.CO", "products": "CC1([OH+]C)OC(O)CC(O)(C(=O)OC)1"}, {"reactants": "CC1([OH+]C)OC(O)CC(O)(C(=O)OC)1", "products": "COC1(C)OC([OH2+])CC(O)(C(=O)OC)1"}, {"reactants": "COC1(C)OC([OH2+])CC(O)(C(=O)OC)1", "products": "COC1(C)C(O)(C(=O)OC)CC=[O+]1.O"}, {"reactants": "COC1(C)C(O)(C(=O)OC)CC=[O+]1.CO", "products": "COC1(C)C(O)(C(=O)OC)CC([OH+]C)O1"}, {"reactants": "COC1(C)C(O)(C(=O)OC)CC([OH+]C)O1", "products": "COC1(C)C(O)(C(=O)OC)CC(OC)O1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "CCOC1OC2OC1C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "CCOC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "CCOC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2.[O-]C", "products": "CCOC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "CCOC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2", "products": "CCOC1OC2OC1C1C(=O)C21"}, {"reactants": "CCOC1OC2OC1C1C(=O)C21.[O-]C", "products": "CCOC1OC2OC1C1C2C1([O-])OC"}, {"reactants": "CCOC1OC2OC1C1C2C1([O-])OC.CO", "products": "CCOC1OC2OC1CC2C(=O)OC"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cccc(F)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cccc(F)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cccc(F)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cccc(F)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cccc(F)c21", "products": "CN1C(=O)C2(C=CCC2)c2cccc(F)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(C)ccc1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)ccc1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)ccc1C)C(C)C", "products": "Cc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "Cc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "Cc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "Cc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "Cc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "Cc1ccc(C)c([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Brc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccccc2Br)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccccc2Br)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1Br"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1Br", "products": "O=C1CCN2C[C@H](OCc3ccccc3Br)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(Cl)C2CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(Cl)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(Cl)CC1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)CC1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(Cl)CC1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)C)c(C(C)C)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(C(C)C)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(C(C)C)c1=C", "products": "CC(C)c1c2c(cc([Si](C)(C)C)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Clc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccccc2Cl)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccccc2Cl)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1Cl", "products": "O=C1CCN2C[C@H](OCc3ccccc3Cl)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
